US07939527B2
Intermediate 15: 2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl methanesulfonate
To a solution of 2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethanol (1.21 g, 4.46 mmol, 1 equiv.) and 4-dimethylaminopyridine (54 mg, 0.44 mmol, 0.1 equiv.) in CH2Cl2 (15 mL) was added N,N-diisopropylethylamine (0.93 mL, 5.36 mmol, 1.2 equiv.). Methanesulfonic anhydride (934 mg, 5.36 mmol, 1.2 equiv.) was added while the solution stirred in a cold water bath. The reaction mixture was stirred at rt for 15 min. The reaction mixture was washed with satd. aq. NH4Cl (2×20 mL), followed by satd. aq. Na2CO3 (3×20 mL). The organic layer was dried, filtered, and concentrated to produce a yellow/orange solid (91%). MS (ESI): mass calcd. for C15H14N2O4S2, 350.41; m/z found, 351.0 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.58 (dd, J=4.8, 1.6, 1H), 8.05 (dd, J=7.9, 1.7, 1H), 7.44-7.31 (m, 4H), 7.23 (dd, J=7.9, 4.8, 1H), 4.46 (t, J=6.8, 2H), 3.12 (t, J=6.8, 2H), 2.94 (s, 3H).

reactant | 2-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethanol | 4.46 mmol, 1.21 g, 1 equiv. | S1C(=NC2=NC=CC=C21)OC2=CC=C(C=C2)CCO | C14H12N2O2S
reactant | N,N-diisopropylethylamine | 5.36 mmol, 0.93 mL, 1.2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Methanesulfonic anhydride | 5.36 mmol, 934 mg, 1.2 equiv. | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
catalyst | 4-dimethylaminopyridine | 0.44 mmol, 54 mg, 0.1 equiv. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)phenyl]ethyl methanesulfonate | 91% | CS(=O)(=O)OCCC1=CC=C(C=C1)OC=1SC=2C(=NC=CC2)N1 | C15H14N2O4S2
